2140-12-06 08:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Transferred to the ICU overnight for hypotension on the wards.
   Originally admitted with hypotension and dehydration and spent several
   days in the MICU earlier in her stay.  She had received a G tube,
   weaned off pressors and ultimately was transferred to the floor.  While
   on the wards, she was undergoing a work-up for dementia and received
   zyprexa in preparation for an MRI. A few hours after this dose, she was
   noted to be hypotensive and was transferred to the ICU.  She was
   started on levophed.  She has been treated with ciprofloxacin and then
   bactrim for a pan-sensitive UTI. (Apparently developed a rash with
   ciprofloxacin).
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Bactrim, amiodarone, levothyroxine, Atovent, Valproic acid,
   lansoprazole, paxil
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-6**] 08:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 90 (74 - 100) bpm
   BP: 101/57(66) {63/38(43) - 110/76(80)} mmHg
   RR: 20 (11 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,286 mL
                                                                  1,497 mL
   PO:
             TF:
             107 mL
   IVF:
                                                                  1,226 mL
                                                                  1,390 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    130 mL
   Urine:
                                                                    180 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,106 mL
                                                                  1,367 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Sleeping
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), Shallow respirations
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, Rash: truncal morbilliform rash, No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Tactile stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   367 K/uL
   114 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   8 mg/dL
   104 mEq/L
   137 mEq/L
   26.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
   WBC
   9.8
   Hct
   26.3
   Plt
   367
   Cr
   0.6
   TropT
   0.05
   Glucose
   114
   Other labs: PT / PTT / INR:23.7/36.5/2.3, CK / CKMB /
   Troponin-T:39//0.05, Lactic Acid:1.4, Ca++:6.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.5 mg/dL
   Imaging: Brain MRI:  Pending
   Microbiology: UCx:  Pan-sensitive E coli
   BCx:  NGTD
   UCx:  Pending
   C diff:  neg
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's Dementia transferred back
   to the ICU for hypotension after receiving zyprexa.
   Hypotension:  No clear evidence of infection at this point.  Seems most
   consistent with med effect in the setting of someone with borderline BP
   to begin with.  However, cannot rule out new/evolving infectious
   process.  Autonomic instability may also be a contributor.
     -Cont require pressors
 wean as tolerated keeping in mind has had
   persistently low baseline maps in past
     -Follow up on cultures sent yesterday
     -Check CXR
     -Avoid zyprexa for now
   Peripheral edema:
     -If BP allows, will restart diuresis
   AF:  Intermittently in AF
     -Continue amiodarone maintenance
     -Coumadin on hold for now as floor team had planned LP.
   Dementia:
     -F/u Brain MRI
     -No plans for LP at this point, will defer until normotensive.
   UTI:
     -Bactrim until [**12-9**].
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-6**] 01:30 AM 15 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Patient is critically ill.
   Total time spent: 50 minutes

2140-12-06 12:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Hospital **] transferred to floor overnight
   -- on low dose levophed; IVF boluses overnight throughout night
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.18 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-12-6**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-6**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.5
   HR: 90 (74 - 100) bpm
   BP: 90/54(61) {63/38(43) - 110/76(80)} mmHg
   RR: 20 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,286 mL
                                                                  1,761 mL
   PO:
             TF:
             188 mL
   IVF:
                                                                  1,226 mL
                                                                  1,503 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    205 mL
   Urine:
                                                                    180 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,106 mL
                                                                  1,556 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   367 K/uL
   8.7 g/dL
   114 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   8 mg/dL
   104 mEq/L
   137 mEq/L
   26.3 %
   9.8 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
   WBC
   9.8
   Hct
   26.3
   Plt
   367
   Cr
   0.6
   TropT
   0.05
   Glucose
   114
   Other labs: PT / PTT / INR:23.7/36.5/2.3, CK / CKMB /
   Troponin-T:39//0.05, Ca++:6.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension.
    (#) HYPOTENSION: unlike sepsis as does not meet SIRS criteria (HR
   80's, RR teens, WBC 5.8, afebrile); does have UTI but has been treated
   for four days now & little evidence of systemic infection. Hct stable
   today & over prior days; no evidence of gross blood loss causing
   hypotension/hemorrhagic shock.  Has been on home lasix dose 40 mg PO QD
   for volume overload; may be volume depleted, though BUN/CR stable.
   Unclear how much autonomic instability is contributing to (chronic)
   hypotension.  Evidence of drug rxn to cipro per floor team (rash);
   unlikely vasodilation from allergic rxn.  With severe MR on recent
   echos; was stable earlier in admission, and no evidence for worsening
   valvular disease in last few days.
   Of note, baseline BP runs 90-100's; 80's when sleeping.
   -- hold home dose lasix 40 mg QD
   -- will give IVF boluses & wean levophed tolerating MAPS
s > 50 (not
   septic; lactic acid 1.4 yest)
   -- unlikely to get tilt table test while in-house
   -- f/u blood cultures, urine cultures from earlier today drawn by floor
   team
   -- will defer broadening coverage with abx given little evidence of
   infection
   (#) UTI: E. coli UTI from UCx [**2140-11-30**]; earlier cultures were negative.
   Floor team started cipro on [**2140-12-2**] with intention to treat for seven
   days.  Rash was noted today; floor team changed to cipro.
   -- f/u urine cultures today
   -- cont Bactrim through [**2140-12-9**] per floor team plans
   (#) SOMNOLENCE: in setting of zyprexa for MRI; INR 2.9, though
   non-focal neuro exam and no evidence of herniation, etc.  No evidence
   of resp distress, no risk factors for hypercarbia.  Improving this
   morning
   -- f/u MRI read
   -- will check ABG, though unlikely vent/oxy contributing currently
   (#) DEMENTIA, FTT: currently being evaluated by neuro for poss
   communication hydrocephalus or other cause to dementia.  Floor team
   plans to LP once INR nromalizes.
   -- f/u MRI read (still pending)
   -- cont to hold coumadin for possible LP
   -- cont. Paxil for possible depression as cause for decreased PO intake
   & FTT
   -- f/u neuro recs
   (#) AFIB: supratx on coumadin; on amio
   -- cont amio; well rhtyhm/rate controlled
   -- cont to hold coumadin for possible LP
   (#) ANEMIA: repeat Hct 24 today; hypotensive, but no evidnece that this
   is blood loss.  Chronic problem, likely from malnutriion (vitammin def)
   and suppressed BM from chronic disease.
   -- should be on folic acid, MVI
   (#) NUTRITION: on tube feeds via PEG; w/o complication.
   -- cont TF; nutrition following
   .
   (#) HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   (#) PPX:
   -- systemmic anticoagulation w/ coumadin for AFIB (supratx, being held)
   -- lansoprazole
   -- no need for bowel regimen (having loose stools; C diff neg)
   (#) CONSENT: must contact HCP brother [**Name (NI) **] for ICU consent
   (#) CODE: FULL
   (#) DISPO: possible transfer to floor this afternoon stabilizes & off
   pressors
   ICU Care
   Nutrition:  Fibersource TF
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Code status: Full code
   Disposition: ICU

2140-12-07 10:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed yesterday
   Levophed still on, but amount has been decreased
   Some AF with RVR this AM, rate improved with IV metoprolol
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.24 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-6**] 02:45 PM
   Coumadin (Warfarin) - [**2140-12-6**] 04:00 PM
   Metoprolol - [**2140-12-7**] 08:10 AM
   Other medications:
   Bactrim, amiodarone, synthroid, valproic acid, lansoprazole, paxil,
   coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-7**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 84 (84 - 116) bpm
   BP: 104/64(72) {73/34(45) - 104/64(80)} mmHg
   RR: 18 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,593 mL
                                                                  1,049 mL
   PO:
             TF:
                                                                    595 mL
                                                                    496 mL
   IVF:
                                                                  1,798 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    360 mL
   Urine:
                                                                  2,340 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    253 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : anteriorly, Diminished:
   At baseline)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   324 K/uL
   235 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.1 mEq/L
   9 mg/dL
   96 mEq/L
   133 mEq/L
   24.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
   WBC
   9.8
   7.9
   Hct
   26.3
   24.6
   Plt
   367
   324
   Cr
   0.6
   0.7
   TropT
   0.05
   Glucose
   114
   235
   Other labs: PT / PTT / INR:25.3/35.7/2.5, CK / CKMB /
   Troponin-T:39//0.05, Albumin:1.7 g/dL, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.6 mg/dL
   Imaging: CXR ([**12-6**]):  B/L patchy opacities
   Brain MRI:  Old infarcts, dilated ventricles
   Microbiology: C diff Neg
   UCx:  Neg
   BCx:  Neg
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's Dementia transferred back
   to the ICU for hypotension after receiving zyprexa.
   Hypotension:  No clear evidence of infection at this point.  Seems most
   consistent with med effect in the setting of someone with borderline BP
   to begin with.  However, cannot rule out new/evolving infectious
   process.  Autonomic instability may also be a contributor.
     -Cont require pressors
 wean as tolerated keeping in mind has had
   persistently low baseline maps in past.  MAP goal is <50.
     -Will add midodrine today
     -Follow up on cultures sent yesterday
     -Avoid zyprexa for now
    Peripheral edema:
     -Will diurese with lasix drip.
   Respiratory:  CXR exam suggest mix of pulmonary edema +/- aspiration.
   No clinical signs of PNA at present.
     -Diuresis as above
     -Aspiration precautions
    AF:  Intermittently in AF
     -Continue amiodarone maintenance
     -No plan for LP per neuro, so coumadin restarted.
   UTI:
     -Bactrim until [**12-9**].
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-7**] 07:43 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-12-08 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on midodrine
   - on lasix gtt with very good diuresis (currently at a rate of 0.5
   mg/hour)
   - levophed not off yet (weaned from levo 0.12
 0.08); MAPs mostly in
   the 60
s overnight
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2140-12-7**] 08:10 AM
   Other medications:
   Flowsheet Data as of  [**2140-12-8**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 91 (84 - 96) bpm
   BP: 89/41(53) {77/41(51) - 104/64(72)} mmHg
   RR: 10 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 62 Inch
             Total In:
                                                                  2,237 mL
                                                                    814 mL
   PO:
             TF:
                                                                  1,147 mL
                                                                    454 mL
   IVF:
                                                                    689 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  1,470 mL
   Urine:
                                                                  3,160 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -923 mL
                                                                   -656 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///39/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (Murmur: Systolic), harsh V/VI SEM heard throughout
   with radiation to the back
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : , No(t) Rhonchorous: ), not cooperative with lung exam
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG Tube
   Extremities: 2+ edema throughout LE/UE
   Skin:  Warm, fine reticular rash on trunk, arms
   Neurologic: arousable, moaning less than yesterday, seems more alert;
   able to follow simple command of opening eyes/squeezing hands; moving
   all limbs, CN II
 XII in tact
   Labs / Radiology
   338 K/uL
   8.8 g/dL
   146 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.3 mEq/L
   10 mg/dL
   94 mEq/L
   134 mEq/L
   25.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
   WBC
   9.8
   7.9
   8.0
   Hct
   26.3
   24.6
   25.6
   Plt
   367
   324
   338
   Cr
   0.6
   0.7
   0.6
   TropT
   0.05
   Glucose
   114
   235
   146
   Other labs: PT / PTT / INR:24.4/35.9/2.4, CK / CKMB /
   Troponin-T:39//0.05, Albumin:1.7 g/dL, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Imaging: No new imaging
   Microbiology: [**2140-12-5**] UCx; negative
   [**2140-12-5**] BCx: NGTD
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension.
    (#) HYPOTENSION: unlike sepsis as does not meet SIRS criteria (HR
   80's, RR teens, WBC 5.8, afebrile); does have UTI but has been treated
   for four days now & little evidence of systemic infection. Hct stable
   today & over prior days; no evidence of gross blood loss causing
   hypotension/hemorrhagic shock.  Has been on home lasix dose 40 mg PO QD
   for volume overload; may be volume depleted, though BUN/CR stable.
   Unclear how much autonomic instability is contributing to (chronic)
   hypotension.  Evidence of drug rxn to cipro per floor team (rash);
   unlikely vasodilation from allergic rxn.  With severe MR on recent
   echos; was stable earlier in admission, and no evidence for worsening
   valvular disease in last few days.  Of note, baseline BP runs 90-100's;
   80's when sleeping.
   -- holding home dose lasix 40 mg QD; will place on lasix drip for goal
   negative1-1.5 L negative while on levophed (evidence of pulm edema on
   CXR)
   -- levophed for MAP
s > 50 (not septic; lactic acid 1.4 yest; RF
   stable)
   -- will increase midodrine ffrom 5 mg to 10 mg TID
   -- unlikely to get tilt table test while in-house
   -- f/u blood cultures from earlier today drawn by floor team-- NGTD
   (#) UTI: E. coli UTI from UCx [**2140-11-30**]; earlier cultures were negative.
   Floor team started cipro on [**2140-12-2**] with intention to treat for seven
   days.  Rash was noted today; floor team changed to cipro.  Repeat UCx
   from [**12-5**] negative.
   -- cont Bactrim through [**2140-12-9**] per floor team plans
   (#) DEMENTIA, FTT: currently being evaluated by neuro for poss
   communication hydrocephalus or other cause to dementia.  Neuro planning
   to defer the LP.  No new recs from neurology
   -- cont. Paxil for possible depression as cause for decreased PO intake
   & FTT
   (#) AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- restarted coumadin 0.5 mg QHS; INR 2.4 today
   (#) ANEMIA: repeat Hct 24 today; hypotensive, but no evidnece that this
   is blood loss.  Chronic problem, likely from malnutrition (vitammin
   def) and suppressed BM from chronic disease.  Folate, B12 not low.
   -- cont to follow
   (#) NUTRITION: on tube feeds via PEG; w/o complication.
   -- cont TF; nutrition following
    (#) HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   (#) PPX:
   -- systemmic anticoagulation w/ coumadin for AFIB (supratx, being held)
   -- lansoprazole
   -- no need for bowel regimen (having loose stools; C diff neg)
   (#) CONSENT: signed on admission on [**11-22**]
    (#) CODE: FULL
    (#) DISPO: possible transfer to floor tomorrow afternoon if stabilizes
   & off pressors
   ICU Care
   ACCESS: PICC
   Nutrition:  Fibersource TF
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   Code status: Full code

2140-12-08 09:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed yesterday/overnight.  Levophed weaned,
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 0.5 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Levophed, bactrim, amiodarone, levothyroxine, Atrovent, Valproate,
   lansoprazole, paxil, warfarin, midodrine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-8**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 88 (84 - 96) bpm
   BP: 93/49(61) {77/41(51) - 104/64(72)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 62 Inch
             Total In:
                                                                  2,237 mL
                                                                  1,032 mL
   PO:
             TF:
                                                                  1,147 mL
                                                                    572 mL
   IVF:
                                                                    689 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  3,160 mL
                                                                  1,670 mL
   Urine:
                                                                  3,160 mL
                                                                  1,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -923 mL
                                                                   -638 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Improved compared to
   yesterday)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   338 K/uL
   146 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.3 mEq/L
   10 mg/dL
   94 mEq/L
   134 mEq/L
   25.6 %
   8.0 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
   WBC
   9.8
   7.9
   8.0
   Hct
   26.3
   24.6
   25.6
   Plt
   367
   324
   338
   Cr
   0.6
   0.7
   0.6
   TropT
   0.05
   Glucose
   114
   235
   146
   Other labs: PT / PTT / INR:24.4/35.9/2.4, CK / CKMB /
   Troponin-T:39//0.05, Albumin:1.7 g/dL, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.9 mg/dL
   Microbiology: BCx:  NGTD
   UCx:  NGTD
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's Dementia transferred back
   to the ICU for hypotension after receiving zyprexa.
   Hypotension:  No clear evidence of infection at this point.  Seems most
   consistent with med effect in the setting of someone with borderline BP
   to begin with.  Autonomic instability may also be a contributor.
     -Cont require pressors
 wean as tolerated keeping in mind has had
   persistently low baseline maps in past.  MAP goal is <50.
     -Continue midodrine
     -Follow up on cultures sent at time of transfer
     -Avoid zyprexa for now
    Peripheral edema:
     -Will diurese again today with lasix drip, goal negative 1 liter.
   Respiratory:  CXR exam suggest mix of pulmonary edema +/- aspiration.
   No clinical signs of PNA at present.
     -Diuresis as above
     -Aspiration precautions
    AF:  Intermittently in AF
     -Continue amiodarone maintenance
     -No plan for LP per neuro, so coumadin restarted.
    UTI:
     -Bactrim until [**12-9**].
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-8**] 01:08 AM 64.[**Telephone/Fax (5) 4069**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2140-12-09 07:37:00 Physician Resident Progress Note
Chief Complaint: hypotension
   24 Hour Events:
   -- around 8:45 pm, had an episode of bilious emesis; gave
   compazine/reglan PRN --> ended up having multiple episodes of bilious,
   non-bloody emesis overnight
   -- also lots of stool output; sent for C diff thought stools well
   formed
   -- was off lasix in late afternoon; tried to d/c levophed, but MAPs
   dropped to 30's when off.  Started back on low rate of levophed.
   Didn't start back on lasix given emesis and stool output.
   -- had slight increase in O2 requirement from 2L to 4L after emesis; ?
   aspiration; improved throughout the night back to baseline
   -- hyponatremic with am labs on [**12-9**]; reduced free water flushes from
   50 ml to 30 ml Q6 hours.
   Patient unable to provide history: Encephalopathy
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2140-12-8**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-9**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.5
C (95.9
   HR: 82 (82 - 150) bpm
   BP: 84/49(58) {71/25(38) - 117/64(70)} mmHg
   RR: 16 (7 - 21) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  2,378 mL
                                                                    250 mL
   PO:
             TF:
                                                                  1,341 mL
   IVF:
                                                                    547 mL
                                                                    190 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    310 mL
   Urine:
                                                                  2,970 mL
                                                                    310 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,192 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///38/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : ), (Breath Sounds: Clear : , Crackles : bilateral, [**11-25**] way
   up)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   371 K/uL
   9.0 g/dL
   169 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.6 mEq/L
   13 mg/dL
   91 mEq/L
   130 mEq/L
   27.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   Hct
   26.3
   24.6
   25.6
   27.0
   Plt
   367
   324
   338
   371
   Cr
   0.6
   0.7
   0.6
   0.7
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   Other labs: PT / PTT / INR:18.6/31.5/1.7, CK / CKMB /
   Troponin-T:39//0.05, Albumin:1.7 g/dL, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Microbiology: Stool Neg for Cdiff [**12-5**] and [**12-8**]
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension.
   # Hypoxia
 likely due to aspiration event overnight.  Could be due to
   pulm edema but less likely she has been diuresed some and this was an
   acute change.  Aspiration pneumonitis vs pneumonia.
   - start vanco/zosyn for HAP
   -  sputum and blood cx
   -  wean O2 as tolerated
   # Nausea/Vomiting: unclear etiology, no residuals from tube feeds.
   - held lasix gtt over night
   - anti-emetics prn
   - hold tube feeds but attempt to re-start later today
   # HYPOTENSION: unlike sepsis as does not meet SIRS criteria (HR 80's,
   RR teens, WBC 5.8, afebrile); does have UTI but has been treated for
   days now & little evidence of systemic infection. Hct stable today &
   over prior days; no evidence of gross blood loss causing
   hypotension/hemorrhagic shock.  Apprears volume overloaded on exam.
   Unclear how much autonomic instability is contributing to (chronic)
   hypotension.  Evidence of drug rxn to cipro per floor team (rash);
   unlikely vasodilation from allergic rxn.  With severe MR on recent
   echos; was stable earlier in admission, and no evidence for worsening
   valvular disease in last few days.  Of note, baseline BP runs 90-100's;
   80's when sleeping.
   -- lasix gtt [**12-8**] (held now due to N/V and hyponatremia)
   -- levophed for MAP
s > 50 (not septic; lactic acid 1.4)
   -- midodrine 10mg TID
   -- unlikely to get tilt table test while in-house
   -- f/u cultures - no new data
   # UTI: E. coli UTI from UCx [**2140-11-30**]; earlier cultures were negative.
   Floor team started cipro on [**2140-12-2**] with intention to treat for seven
   days.  Rash was noted today; floor team changed to cipro.  Repeat UCx
   from [**12-5**] negative.
   -- stop Bactrim as has completed > 7 day course
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.  No new recs from neurology
   -- on. Paxil for possible depression as cause for decreased PO intake &
   FTT; decrease dose to 10mg as may be contributing to her lethargy
   # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- restarted coumadin; INRsubtherapeutic, increase to 1 mg daily
   # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- cont to follow
   # FEN: on tube feeds via PEG; w/o complication.  Hyponatremic [**12-9**] -
   hold lasix gtt
   -- cont TF; nutrition following
   # HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   # PPX:
   -- systemmic anticoagulation w/ coumadin for AFIB (supratx, being held)
   -- lansoprazole
   -- no need for bowel regimen (having loose stools; C diff neg)
   # CONSENT: signed on admission on [**11-22**]
    # CODE: FULL
    # DISPO: transfer to floor if stabilizes & off pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Fam mtg planned
   Code status: Full code
   Disposition:ICU

2140-12-09 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bilious emesis overnight and shortly after that developed increasing
   oxygen requirements.
   Has remained on pressors
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2140-12-8**] 08:30 PM
   Other medications:
   Bactrim, amiodarone, levothyroxine, atovent, valproate, lansoprazole,
   paxil, colace, midodrine, coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-9**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96
   HR: 88 (82 - 150) bpm
   BP: 83/48(55) {71/25(38) - 117/64(71)} mmHg
   RR: 17 (7 - 21) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  2,378 mL
                                                                    446 mL
   PO:
             TF:
                                                                  1,341 mL
   IVF:
                                                                    547 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  3,570 mL
                                                                    385 mL
   Urine:
                                                                  2,970 mL
                                                                    385 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,192 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 92%
   ABG: ///38/
   Physical Examination
   General Appearance: No acute distress, Somnolent
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : B/L, Diminished: at
   bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   371 K/uL
   169 mg/dL
   0.7 mg/dL
   38 mEq/L
   4.6 mEq/L
   13 mg/dL
   91 mEq/L
   130 mEq/L
   27.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   Hct
   26.3
   24.6
   25.6
   27.0
   Plt
   367
   324
   338
   371
   Cr
   0.6
   0.7
   0.6
   0.7
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   Other labs: PT / PTT / INR:18.6/31.5/1.7, CK / CKMB /
   Troponin-T:39//0.05, Albumin:1.7 g/dL, Ca++:7.0 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR:  PICC in place.  Bilateral infiltrates
   Microbiology: C diff neg x 2
   Assessment and Plan
   52 yo F with Down's Syndrome and Alzheimer's Dementia transferred back
   to the ICU for hypotension after receiving zyprexa.
   Hypotension:  No clear evidence of infection at this point.  Persistent
   pressor requirement may be related SIRS in setting of likely repeated
   aspirations.  Autonomic instability may also be a contributor.
     -Cont require pressors
 wean as tolerated keeping in mind has had
   persistently low baseline maps in past.  MAP goal is <50.
     -Continue midodrine
     -Follow up on cultures sent at time of transfer
     -Avoid zyprexa for now
    Respiratory:  Worsening oxygen requirement overnight after vomiting.
   Very likely aspirated.  Unclear if just pneumonitis vs PNA.
     -Empiric Vanc/Zosyn for now.  Obtain sputum culture if able.  If
   process resolves quickly consider stopping abx.
     -Aspiration precautions
    Peripheral edema:
     -Will hold on futher diuresis today until her overall trajectory is
   clearer in setting of recent aspiration.
    AF:  Intermittently in AF
     -Continue amiodarone maintenance
     -Increase coumadin tonight.
   UTI:
     -Bactrim stops after today.
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2140-12-10 08:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started vanco/zosyn for HAP after presumed aspiration event
   - cultured (sputum/blood)
   - escalating O2 requirement (on NRB by 4pm)
   - repeat CXR, essentially unchanged
   - gave 20mg IV lasix b/c of breathing and concern  for vol overload
   - Family mtg - DNR/DNI
   - restarted TFs, no residuals
   This AM,  pt more lethargic than usual self, but no obvious respiratory
   distress.
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-9**] 10:05 PM
   Vancomycin - [**2140-12-10**] 07:41 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-9**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-10**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.3
C (95.6
   HR: 85 (81 - 137) bpm
   BP: 92/54(63) {83/42(51) - 105/64(78)} mmHg
   RR: 15 (8 - 17) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 62 Inch
             Total In:
                                                                  1,517 mL
                                                                    807 mL
   PO:
             TF:
                                                                    129 mL
                                                                    160 mL
   IVF:
                                                                  1,067 mL
                                                                    426 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    480 mL
   Urine:
                                                                  1,935 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   General Appearance: Thin, NAD
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: unchanged 3/6 systolic murmur, irregularly irregular
   Respiratory / Chest:: poor air movement,  + crackles bilateral [**11-25**] way
   up
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: anasarca
   Labs / Radiology
   380 K/uL
   8.7 g/dL
   97 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.0 mEq/L
   14 mg/dL
   91 mEq/L
   131 mEq/L
   25.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   Plt
   367
   324
   338
   371
   380
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   Other labs: PT / PTT / INR:19.3/30.4/1.8, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:10/32, Alk Phos / T Bili:75/0.3,
   Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %, Mono:9.0 %,
   Eos:2.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Imaging: [**12-9**] CXR (PM)
   No significant change compared to the prior study, still combination of
   pulmonary edema and multiple parenchymal opacities that might be
   consistent with aspiration. Slight improvement of the right upper lung
   opacity due to resolution of aspiration.
   [**12-9**] CXR (AM)
   Right PICC ends in upper SVC. Severe cardiomegaly. Interstitial edema
   is
   unchanged. Bilateral multifocal alveolar opacity increased in right
   upper
   lobe and both bases could be aspiration.
   Microbiology: [**12-9**] BCx: PND
   sputum not obtained
   [**12-8**] Stoool CDiff negative
   [**12-5**] CDiff negative
   [**12-5**] UCx: negative
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension, MICU course c/b aspiration event and
   increasing O2 requirement.
   # Hypoxemia
 likely due to aspiration event, PNA vs pneumonitis.
   Concern for development of ARDS. Could also be due to pulm edema.
   - continue vanco/zosyn for HAP
   - follow up blood cx, try to get sputum if possible
   -  supplemental O2 as needed
   - continue diuresis to minimize pulm edema
   # HYPOTENSION: unlikely sepsis as does not meet SIRS criteria (HR 80's,
   RR teens, WBC 5.8, afebrile); did have UTI but has been treated for
   days now & little evidence of systemic infection. Hct stable & over
   prior days; no evidence of gross blood loss causing
   hypotension/hemorrhagic shock.  Apprears volume overloaded on exam.
   Unclear how much autonomic instability is contributing to (chronic)
   hypotension.  Evidence of drug rxn to cipro per floor team (rash);
   unlikely vasodilation from allergic rxn.  With severe MR on recent
   echos; was stable earlier in admission, and no evidence for worsening
   valvular disease in last few days.  Of note, baseline BP runs 90-100's;
   80's when sleeping.
   -- continue lasix gtt
   -- levophed for MAP
s > 50 (not septic; lactic acid WNL)
   -- midodrine 10mg TID
   -- f/u cultures - no new data
   -- consider additional afterload reduction with ACE-I?
   # s/p UTI: E. coli UTI from UCx [**2140-11-30**]; earlier cultures were negative.
   Floor team started cipro on [**2140-12-2**] with intention to treat for seven
   days.  Rash was noted; floor team changed to bactrim.  Repeat UCx from
   [**12-5**] negative.
   -- now s/p Bactrim 7 day course
   # Nausea/Vomiting: unclear etiology, no residuals from tube feeds.
   -          back on TFs with no residuals
   -          antiemetics prn
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.  No new recs from neurology
   -- on. Paxil for possible depression as cause for decreased PO intake &
   FTT; decreased dose to 10mg as may be contributing to her lethargy
    # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- continue coumadin; INR still subtherapeutic, increased to 1 mg daily
   -- trend INR
    # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- cont to follow
   # Hyponatremia
 appear hypervolemic on exam, and with pulmonary edema,
   merits diuresis
   n        lasix gtt with goal negative 1 liter today
    # FEN: on tube feeds via PEG; w/o complication.  Hyponatremic [**12-9**] -
   hold lasix gtt
   -- cont TF; nutrition following
    # HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-10**] 05:27 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition: ICU

2140-12-10 13:05:00 Physician Attending Progress Note
Chief Complaint:
   -
   HPI:
   52yo with Downs Syndrome,  Alzheimer's Dementia and 4+ MR [**First Name (Titles) **]
[**Last Name (Titles) 4111**]mal Afib with RVR returned to ICU after hypotensive episode,
   thought secondary to medications.  Now complicated by aspiration event,
   with hypoxemia.  Requiring vasopressors to maintain MAPs.
   24 Hour Events:
   - No major o/n events
   - FiO2 weaned to 50% shovel mask
   - continues on Norepinephrine (0.15 mcg/kg/min)  to maintain MAPs>50
   - episode of Afib RVR responded to metop.
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-9**] 10:05 PM
   Vancomycin - [**2140-12-10**] 07:41 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-9**] 04:30 PM
   Metoprolol - [**2140-12-10**] 10:16 AM
   Other medications:
   Folate
   MVI
   Warfarin 1mg
   Midodrine 10mg po tid
   PPI
   Valproic acid 400mg q8hr
   Syntrhoid
   Amiodarone 200mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-10**] 01:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 83 (81 - 180) bpm
   BP: 85/37(48) {85/37(48) - 129/112(116)} mmHg
   RR: 17 (8 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  1,517 mL
                                                                  1,303 mL
   PO:
             TF:
                                                                    129 mL
                                                                    253 mL
   IVF:
                                                                  1,067 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    700 mL
   Urine:
                                                                  1,935 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask , Aerosol-cool
   FiO2: 50% shovel mask
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: [**12-30**]  Systolic at
   apex)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   on sides at bases.)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   380 K/uL
   97 mg/dL
   0.9 mg/dL
   37 mEq/L
   5.0 mEq/L
   14 mg/dL
   91 mEq/L
   131 mEq/L
   25.3 %
   8.6 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   Plt
   367
   324
   338
   371
   380
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   Other labs: PT / PTT / INR:19.3/30.4/1.8, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:10/32, Alk Phos / T Bili:75/0.3,
   Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %, Mono:9.0 %,
   Eos:2.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Imaging: CXR [**12-9**]= pulm edema. RLL and LLL opacities.  LVH and LAE.
   Microbiology: Blood Cx [**12-9**]= neg
   Assessment and Plan
   52yo with Down's and Alzheimer's now hypotensive, with aspiration
   pneumonia.
   1. [**Name (NI) 4112**] Hypotensive, unclear whether related to sepsis physiology vs
   cardiogenic shock (given Hx 4+ MR and volume repletion)..
       a) volue overloaded --> will diurese TBB -1L
       b) Consider afterload reduction if not responding to lasix
       c) Wean pressors for MAPs >50
       d) continue Abx (Vanc and Zosyn); attempt sputum cultures
       e) On Midodrine 10mg tid
       f) Afib- On amiodarone and warfarin . Supp with beta blokcers for
   RVR
   2. Pulm-
       a) Wean FiO2
   3. GI- continues on tube feeds
   4. Renal -
       a) Diuresis
       b) pm lytes
   5. ID- continues on Vanc and Zosyn (started [**12-9**]); will need 8 day
   course.
   6. Heme- no issues; on warfarin (INR=1.7), will increase warafrin.
   7. Endo- will follow dexis
   8. ICU- DNR/DNI
                Access- PICC
                PPI, warfarin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-10**] 05:27 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT:  on warfarin
   Stress ulcer:  will start PPI
   VAP:  head of bed at 45 degrees.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes, patient is critically ill

2140-12-11 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - O2 requirement weaned down
   - remains on vanco/zosyn for presumptive HAP
   - remains on levophed
   - diuresed to goal on lasix gtt
   - had mild hematuria
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-10**] 07:41 AM
   Piperacillin - [**2140-12-11**] 06:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2140-12-10**] 10:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 81 (79 - 180) bpm
   BP: 89/53(61) {67/37(48) - 129/112(116)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  2,493 mL
                                                                    614 mL
   PO:
             TF:
                                                                    656 mL
                                                                    300 mL
   IVF:
                                                                  1,227 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                  3,665 mL
                                                                    850 mL
   Urine:
                                                                  3,665 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,172 mL
                                                                   -236 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///38/
   Physical Examination
   General Appearance: Thin, NAD
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: unchanged 3/6 systolic murmur, irregularly irregular
   Respiratory / Chest:: poor air movement,  + crackles bilateral [**11-25**] way
   up
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: anasarca
   Labs / Radiology
   391 K/uL
   8.4 g/dL
   93 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.9 mEq/L
   13 mg/dL
   92 mEq/L
   133 mEq/L
   24.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   Plt
   367
   324
   338
   371
   380
   391
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   Other labs: PT / PTT / INR:19.9/31.0/1.9, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:10/32, Alk Phos / T Bili:75/0.3,
   Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %, Mono:9.0 %,
   Eos:2.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: none new
   Microbiology: [**12-9**] BCx: NGTD
   [**12-8**] C Diff: negative
   [**12-5**] UCx: negative
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension, MICU course c/b aspiration event and
   increasing O2 requirement.
   # Hypoxemia
 likely due to aspiration event, PNA vs pneumonitis.
   Concern for development of ARDS. Could also be due to pulm edema.
   - continue vanco/zosyn for HAP
   - follow up blood cx, try to get sputum if possible
   -  supplemental O2 as needed
   - continue diuresis to minimize pulm edema
   # HYPOTENSION: unlikely sepsis as does not meet SIRS criteria (HR 80's,
   RR teens, WBC 5.8, afebrile); did have UTI but has been treated for
   days now & little evidence of systemic infection. Hct stable & over
   prior days; no evidence of gross blood loss causing
   hypotension/hemorrhagic shock.  Apprears volume overloaded on exam.
   Unclear how much autonomic instability is contributing to (chronic)
   hypotension.  Evidence of drug rxn to cipro per floor team (rash);
   unlikely vasodilation from allergic rxn.  With severe MR on recent
   echos; was stable earlier in admission, and no evidence for worsening
   valvular disease in last few days.  Of note, baseline BP runs 90-100's;
   80's when sleeping.
   -- continue lasix gtt
   -- levophed for MAP
s > 50 (not septic; lactic acid WNL)
   -- midodrine 10mg TID
   -- f/u cultures - no new data
   -- consider additional afterload reduction with ACE-I?
   # s/p UTI: E. coli UTI from UCx [**2140-11-30**]; earlier cultures were negative.
   Floor team started cipro on [**2140-12-2**] with intention to treat for seven
   days.  Rash was noted; floor team changed to bactrim.  Repeat UCx from
   [**12-5**] negative.
   -- now s/p Bactrim 7 day course
   # Nausea/Vomiting: unclear etiology, no residuals from tube feeds.
   -          back on TFs with no residuals
   -          antiemetics prn
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.  No new recs from neurology
   -- on. Paxil for possible depression as cause for decreased PO intake &
   FTT; decreased dose to 10mg as may be contributing to her lethargy
    # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- continue coumadin; INR still subtherapeutic, increased to 1 mg daily
   -- trend INR
    # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- cont to follow
   # Hyponatremia
 appear hypervolemic on exam, and with pulmonary edema,
   merits diuresis
   n        lasix gtt with goal negative 1 liter today
    # FEN: on tube feeds via PEG; w/o complication.  Hyponatremic [**12-9**] -
   hold lasix gtt
   -- cont TF; nutrition following
    # HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-11**] 04:21 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2140-12-11 10:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   52yo  with Downs and Alzheimer's disease admitted [**11-22**] with
   hypotension due to dehydration / FTT. Re-admitted on [**12-4**] for
   hypotension thought [**12-26**] medications.  Course c/b aspiration event, with
   hypotension requiring vasopressors.  Also volume overloaded; pt with 4+
   MR [**First Name (Titles) **] [**Last Name (Titles) 1641**] with intermittent RVR.
   24 Hour Events:
   - FiO2 weaned to 40%
   - Pt diuresed ~1L yesterday.
   - Suctioning q4hr for small amt
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-11**] 06:00 AM
   Vancomycin - [**2140-12-11**] 09:07 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2140-12-10**] 10:16 AM
   Other medications:
   Amiodarone 200mg daily
   Synthroid 88mcg
   Atrovent Neb
   Valproic acid 400mg po q8hr
   Midordrine 10mg tid
   Lasix gtt (now off)
   Paroxetine 10mg daily
   Warfarin 1mg
   MVI
   folate
   Lansoprazole
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-11**] 10:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.5
C (95.9
   HR: 86 (79 - 180) bpm
   BP: 77/41(48) {67/37(48) - 129/112(116)} mmHg
   RR: 15 (10 - 18) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  2,493 mL
                                                                  1,000 mL
   PO:
             TF:
                                                                    656 mL
                                                                    413 mL
   IVF:
                                                                  1,227 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                  3,665 mL
                                                                  1,150 mL
   Urine:
                                                                  3,665 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,172 mL
                                                                   -150 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: 40% shovel mask
   SpO2: 92%
   ABG: ///38/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), [**1-27**]
   systolic murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases bilat)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   391 K/uL
   93 mg/dL
   0.9 mg/dL
   38 mEq/L
   3.9 mEq/L
   13 mg/dL
   92 mEq/L
   133 mEq/L
   24.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   Plt
   367
   324
   338
   371
   380
   391
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   Other labs: PT / PTT / INR:19.9/31.0/1.9, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:10/32, Alk Phos / T Bili:75/0.3,
   Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %, Mono:9.0 %,
   Eos:2.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.7 g/dL, Ca++:7.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: No new CXR
   Microbiology: Blood 1/16= NGTD
   No sputum
   Assessment and Plan
   52yo with hypotension [**12-26**] aspiration pneumonia and  volume overload.
   1. Pulm-
       a) Diuresing goal TBB -1-2 L with levophed per day
       b) continue Vanc /Zosyn for 8 days course; no culture data to guide
   therapy unfortunately
       c) BiPAP/ NiPPV with sleep for likely OSA
   2. CV
       a) Hypotension
           - unclear source --> sepsis vs. volume overloaded (MR). r/o for
   adrenal insufficiency. Unlikely PE given supratherapeutic INR.
           - Continues on low dose levophed and midodrine
           - Consider stopping pressors and following clinical parameters
   for hypotension (cap refill, urine output, lactates)
           - [**Month (only) 8**] benefit from low dose digoxin ( po/iv) for added
   inotropic support
       b) [**Month (only) 1641**]-
           - On amiodarone for rate control
          - Warfarin for anticoag
   3. GI- continue tube feeds via G-tube
   4. Renal-
       a) duirese TBB -1l
       b) Hyponatremia improving with diuresis
   5. Endo-
       a) Hypothyroid, on syntroid
       b) On ISS
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-11**] 04:21 AM 55 mL/hour
   Comments: Senna/Colace
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: 35 min minutes

2140-12-12 07:42:00 Physician Resident Progress Note
Chief Complaint:
   FTT
   AMS
   Aspiration
   Hypotension
   24 Hour Events:
   -- diuresed 1.5 L yesterday
   -- ~4:30 am developed NBNB emesis; HR went up to the 190's; gave
   compazine & metoprolol 5 mg IV x 1 with improvement in HR to the 110's
   -- held TF after emesis (there was no residual on the feeds prior to
   emesis)
   -- didn't make much progress on weaning levophed (remains at 0.15)
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-11**] 08:37 PM
   Piperacillin - [**2140-12-12**] 06:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-12**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 89 (44 - 172) bpm
   BP: 96/56(64) {77/41(48) - 108/73(80)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  3,161 mL
                                                                    737 mL
   PO:
             TF:
                                                                  1,456 mL
                                                                    419 mL
   IVF:
                                                                  1,495 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  4,740 mL
                                                                  1,570 mL
   Urine:
                                                                  4,740 mL
                                                                  1,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,579 mL
                                                                   -832 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 88%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   476 K/uL
   8.0 g/dL
   80 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   12 mg/dL
   93 mEq/L
   135 mEq/L
   23.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   Plt
   367
   324
   338
   371
   380
   391
   476
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   Other labs: PT / PTT / INR:20.8/33.0/2.0, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:10/32, Alk Phos / T Bili:75/0.3,
   Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %, Mono:9.0 %,
   Eos:2.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.9 g/dL, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**12-9**]:
   The patient continues to be in pulmonary edema in addition to bilateral
   opacities that might be consistent with aspiration. No focal air
   trapping is
   currently seen in the right lower lung with just some spared lung
   adjacent to
   the heart border. The right PICC line tip is in superior SVC. The
   cardiomegaly is unchanged.
   Microbiology: Blood 1/16: NGTD
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension, MICU course c/b aspiration event and
   increasing O2 requirement.
   # Aspiration PNA
 occurred in setting of extensive vomiting on
   Thursday [**12-8**]. Concern for development of ARDS vs cardiogenic pulmonary
   edema
   - continue vanco/zosyn for HAP x 10 day course: ([**12-9**] - [**12-18**])
   - follow up blood cx, sputum was not produced by patient
   - wean supplemental O2
   - continue diuresis to minimize pulm edema
   - TFs
 on hold due to emesis, restart at low rate
   # Hypotension: unlikely septic shock as does not even meet SIRS
   criteria (HR 80's, RR teens, WBC 5.8, afebrile). She did have a UTI but
   has been treated for days now, with a negative surveillance urine
   culture from [**12-5**]. No evidence of gross blood loss to suggest
   hypovolemic/hemorrhagic shock.  Actually appears volume overloaded on
   exam. Unclear how much autonomic instability is contributing to
   (chronic) hypotension. With severe MR on recent echo, poor forward flow
   is a likely contributor to hypoTN. Of note, her baseline BP runs
   90-100's; 80's when sleeping.
   -- midodrine 10mg TID
   -- levophed for MAP
s > 50 (not septic; lactic acid WNL)
   -- continue lasix gtt for hypervolemia and afterload reduction, goal -1
   -2 L today
   -- consider afterload reduction with low dose captopril, may have
   paradoxical improvement in BP
   # s/p E. coli UTI - grew from UCx [**2140-11-30**]; earlier cultures were
   negative. Floor team started cipro on [**2140-12-2**] with intention to treat
   for seven days.  Rash was noted; floor team changed to bactrim.  Repeat
   UCx from [**12-5**] negative.
   -- now s/p Bactrim 7 day course
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.
   -- continue paxil for possible depression as cause for decreased PO
   intake & FTT; decreased dose to 10mg as may be contributing to her
   lethargy
    # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- continue coumadin; therapeutic INR now that dose has been increased
   to 1 mg daily
   -- trend INR
    # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- cont to follow
   # Hyponatremia
 improving with diuresis
   -- lasix gtt with goal negative [**11-25**] liter today
    # HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2140-12-12 11:13:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   52yo with Downs syndrome and Alzheimer's dementia, admit with FTT;
   re-admitted to ICU for hypotension. course c/b aspiration event;
   currently on Vanc and zosyn. also volume overloaded; has 4+ MR [**First Name (Titles) **]
[**Last Name (Titles) 4141**]lic dysfunction.
   24 Hour Events:
   - Diuresed 1.5L yesterday
   - Emesis this am; no prior residuals
   - Remains on Levophed 0.15mcg/kg/min ; MAPs~60
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-12**] 06:00 AM
   Vancomycin - [**2140-12-12**] 08:15 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Amiodarone 200
   Synthroid 88
   Atrovent
   VPA 400mg q8h
   Lansoprazole
   Paroxetine 10mg
   Lasix gtt (now on hold)
   Midodrine 10 tid
   Senna/Colace
   Warfarin 1.5mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-12**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 89 (44 - 172) bpm
   BP: 92/59(68) {88/50(56) - 108/73(80)} mmHg
   RR: 16 (11 - 28) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 62 Inch
             Total In:
                                                                  3,161 mL
                                                                  1,110 mL
   PO:
             TF:
                                                                  1,456 mL
                                                                    419 mL
   IVF:
                                                                  1,495 mL
                                                                    611 mL
   Blood products:
   Total out:
                                                                  4,740 mL
                                                                  2,180 mL
   Urine:
                                                                  4,740 mL
                                                                  2,150 mL
   NG:
   30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,579 mL
                                                                 -1,070 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   FiO2: Shovel mask at 50%
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   anteriorly, diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   476 K/uL
   80 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.0 mEq/L
   12 mg/dL
   93 mEq/L
   135 mEq/L
   23.3 %
   10.9 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   Plt
   367
   324
   338
   371
   380
   391
   476
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   Other labs: PT / PTT / INR:20.8/33.0/2.0, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:2.0 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: No new imaging
   Microbiology: No new microbiology data
   Assessment and Plan
   52yo hypotension in setting of aspiration pneumonia and volume
   overload.  Pt MAPs slightly improving with diuresis.
   CV
     - Hypotension, likely moreso cardiac in etiology, as opposed to
   septic physiology.
        + TBB goal -1 to-2 L today
        + Unsure if cuff pressures accurate.  Will turn off vasopressors
   and follow clinical parameters and lactate. If concern of hypotension
   will insert A-line with goal of being able to titrate of pressors.
     - Afib on amiodarone and warfarin
    ID
       - Increase Vancomycin to 1g q12h
       - Continue  Abx (Vanc / Zosyn) for 10 days (unclear culture given
   difficulty obtaining sputum)
   Pulm
       - Hypoxemic likely [**12-26**] edema and pna; wean FiO2 to keep SpO2>92%
   GI
     - With nausea/vomiting --> no residuals. No evidnece biliary process.
     - ?  due to volume overload and right heart failure
     - Will restart tube feeds
     - Check KUB if this recurs
   Renal
    - Continue diuresis
    - Recheck pm lytes
    - Hypernatremia- improved.  FWF at 30cc q6hr
   ICU
    - DNR/DNI
    - Requires ICU care
    - Prophy- PPI, warfarin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 min, patient remains critically ill

2140-12-13 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-12**] 08:00 PM
   Piperacillin - [**2140-12-13**] 05:53 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-12**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-13**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.5
   HR: 87 (83 - 96) bpm
   BP: 87/49(57) {66/37(44) - 103/65(71)} mmHg
   RR: 12 (8 - 19) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 62 Inch
             Total In:
                                                                  2,488 mL
                                                                    660 mL
   PO:
             TF:
                                                                    959 mL
                                                                    421 mL
   IVF:
                                                                  1,259 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  4,015 mL
                                                                    585 mL
   Urine:
                                                                  3,985 mL
                                                                    585 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,527 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: 3/6 SEM radiating to axilla
   Respiratory / Chest:  poor air movement, doesn
t take deep breaths
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Labs / Radiology
   460 K/uL
   8.0 g/dL
   97 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.7 mEq/L
   11 mg/dL
   96 mEq/L
   135 mEq/L
   24.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
                             [**2140-12-13**]  04:30 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   7.8
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   24.1
   Plt
   367
   324
   338
   371
   [**Telephone/Fax (2) 4150**]60
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   0.8
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   97
   Other labs: PT / PTT / INR:23.1/34.9/2.2, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   MICRO:
   Blood 1/16: NGTD
   IMAGING:
   None new
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension, MICU course c/b aspiration event.
    # Aspiration PNA
 occurred in setting of extensive vomiting on
   Thursday [**12-8**]. Concern for development of ARDS vs cardiogenic pulmonary
   edema
   - continue vanco/zosyn for HAP x 10 day course: ([**12-9**] - [**12-18**])
   - follow up blood cx, sputum was not produced by patient
   - weaning supplemental O2 , now on NC
   - continue diuresis to minimize pulm edema
   - TFs restarted at low rate
   - consider changing reglan to standing to avoid rpeat N/V
   # Hypotension: unlikely septic shock as does not even meet SIRS
   criteria (HR 80's, RR teens, WBC 5.8, afebrile). She did have a UTI but
   has been treated for days now, with a negative surveillance urine
   culture from [**12-5**]. No evidence of gross blood loss to suggest
   hypovolemic/hemorrhagic shock.  Actually appears volume overloaded on
   exam. Unclear how much autonomic instability is contributing to
   (chronic) hypotension. With severe MR on recent echo, poor forward flow
   is a likely contributor to hypoTN. Of note, her baseline BP runs
   90-100's; 80's when sleeping.
   -- not hypoperfusing given lactate of 1.1 while MAPs were in high 40
   -- continue midodrine 10mg TID
   -- levophed for MAP
s > 50 (not septic; lactic acid WNL), now at 0.08
   -- lasix as needed for goal -1 -2 L today
   -- consider afterload reduction with low dose captopril, may have
   paradoxical improvement in BP
   # s/p E. coli UTI - grew from UCx [**2140-11-30**]; earlier cultures were
   negative. Floor team started cipro on [**2140-12-2**] with intention to treat
   for seven days.  Rash was noted; floor team changed to bactrim.  Repeat
   UCx from [**12-5**] negative.
   -- now s/p Bactrim 7 day course
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.
   -- continue paxil for possible depression as cause for decreased PO
   intake & FTT; decreased dose to 10mg as may be contributing to her
   lethargy
     # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- continue coumadin; therapeutic INR now that dose has been increased
   to 1 mg daily
   -- trend INR
     # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- cont to follow
   # Hyponatremia
 Resolving with diuresis
   -- lasix gtt with goal negative [**11-25**] liter today
   #  HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   ICU Care
   Nutrition: TFs
   Fibersource HN (Full) - [**2140-12-12**] 12:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: sQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2140-12-13 11:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remained on low dose pressors overnight
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-13**] 05:53 AM
   Vancomycin - [**2140-12-13**] 08:29 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2140-12-12**] 08:30 PM
   Other medications:
   Amiodarone, Synthroid, Valproate, lansoprazole, paxil, colace,
   midodrine, senna, MVI, folate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-13**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 95 (83 - 95) bpm
   BP: 91/60(67) {66/37(44) - 103/65(71)} mmHg
   RR: 16 (8 - 18) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  2,488 mL
                                                                  1,435 mL
   PO:
             TF:
                                                                    959 mL
                                                                    619 mL
   IVF:
                                                                  1,259 mL
                                                                    507 mL
   Blood products:
   Total out:
                                                                  4,015 mL
                                                                    925 mL
   Urine:
                                                                  3,985 mL
                                                                    925 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,527 mL
                                                                    510 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Asleep, mildly arousable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ), Poor inspiratory effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   460 K/uL
   97 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.7 mEq/L
   11 mg/dL
   96 mEq/L
   135 mEq/L
   24.1 %
   7.8 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
                             [**2140-12-13**]  04:30 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   7.8
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   24.1
   Plt
   367
   324
   338
   371
   [**Telephone/Fax (2) 4150**]60
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   0.8
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   97
   Other labs: PT / PTT / INR:23.1/34.9/2.2, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: No new imaging
   Microbiology: BCx:  NGTD
   Assessment and Plan
   52yo hypotension in setting of aspiration pneumonia and volume
   overload.  Pt MAPs slightly improving with diuresis.
   Hypotension:  Pressor requirement continuing to wean.  Remains on
   midodrine.
     -Wean pressors to off if able today
     -Continue midodrine
   Aspiration:  Pneumonia vs pneumonitis.  Rapidly improved.  Now off
   oxygen.
      -Will complete empiric course of abx for 8 days.
   GI:  With nausea/vomiting --> no residuals. No evidnece biliary
   process.
     -Continue anti-emetics
     -Restart TF and check for residuals
   Renal:  Significant volume overload still
     -Continue diuresis with goal of negative -500cc to 1L. She may
   benefit from low dose neo/levophed to aid GFR and diuresis
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-12**] 12:00 PM 55 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2140-12-14 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   24h:
   - diuresed, weaned levophed down to 0.04
   - was OOB to chair
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-13**] 08:25 PM
   Piperacillin - [**2140-12-14**] 06:11 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-14**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 88 (85 - 96) bpm
   BP: 83/47(55) {73/39(49) - 91/61(67)} mmHg
   RR: 13 (9 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  3,006 mL
                                                                    748 mL
   PO:
             TF:
                                                                  1,333 mL
                                                                    424 mL
   IVF:
                                                                  1,193 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                  2,860 mL
   Urine:
                                                                  3,235 mL
                                                                  2,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -229 mL
                                                                 -2,112 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///40/
   Physical Examination
   General Appearance: No acute distress, Thin, attentive and moaning
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: 3/6 SEM radiating to axilla
   Respiratory / Chest:  poor air movement, doesn
t take deep breaths
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Labs / Radiology
   604 K/uL
   8.7 g/dL
   82 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.0 mEq/L
   13 mg/dL
   96 mEq/L
   139 mEq/L
   26.2 %
   7.1 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
                             [**2140-12-13**]  04:30 AM
                             [**2140-12-14**]  03:49 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   7.8
   7.1
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   24.1
   26.2
   Plt
   367
   324
   338
   371
   [**Telephone/Fax (2) 4150**]60
   604
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   0.8
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   97
   82
   Other labs: PT / PTT / INR:23.8/34.1/2.3, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: [**12-14**] CXR: (my read)
   worsened airspace disease ont he right, with improvement on the left
   Microbiology: [**12-9**] BCx: NGTD
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension, MICU course c/b aspiration event.
    # Aspiration PNA
 occurred in setting of extensive vomiting on
   Thursday [**12-8**]. Concern for development of ARDS vs cardiogenic pulmonary
   edema
   -- CXR this AM without significant improvement overall
   - continue vanco/zosyn for HAP x 10 day course: ([**12-9**] - [**12-18**])
   - blood cx from the aspiration event with NGTD, sputum was not produced
   by patient
   - weaning supplemental O2 , now on NC
   - continue diuresis to minimize pulm edema (already 2 liters negative
   today)
   - TFs restarted at low rate
   - standing reglan to avoid repeat N/V
   # Hypotension: not septic shock as does not even meet SIRS criteria.
   She did have a UTI but has been treated for days now, with a negative
   surveillance urine culture from [**12-5**]. No evidence of
   hypovolemic/hemorrhagic shock.  Unclear how much autonomic instability
   is contributing to (chronic) hypotension. With severe MR on recent
   echo, poor forward flow is a likely contributor to hypoTN.
   -- not hypoperfusing given lactate of 1.1 while MAPs were in high 40
   -- continue midodrine 10mg TID
   -- weaning levophed to MAP
s > 50, now at 0.04 from 0.08 24 hours ago
   goal off today
   -- lasix as needed for goal -1 L today
   -- [**Hospital1 **] lytes
     # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- continue coumadin; therapeutic INR now that dose has been increased
   to 1 mg daily
   -- trend INR
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.
   -- continue paxil
     # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- cont to follow
   # Hyponatremia
 Resolved with diuresis
   -- lasix gtt with goal negative  1 liter today
   #  HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-13**] 01:49 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:ICU

2140-12-14 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   OOB to a chair yesterday and this AM.
   Diuresis continued.  Has remained on pressors to date.
   History obtained from Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-14**] 06:11 AM
   Vancomycin - [**2140-12-14**] 08:22 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-12-14**] 08:21 AM
   Other medications:
   amiodarone, levothyroxine, valporate, paxil, colace, midodrine, senna,
   folate, coumadin, reglan, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-14**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 80 (80 - 96) bpm
   BP: 84/44(53) {73/39(49) - 91/61(65)} mmHg
   RR: 9 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 62 Inch
             Total In:
                                                                  3,006 mL
                                                                  1,375 mL
   PO:
             TF:
                                                                  1,333 mL
                                                                    637 mL
   IVF:
                                                                  1,193 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  3,235 mL
                                                                  3,160 mL
   Urine:
                                                                  3,235 mL
                                                                  3,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -229 mL
                                                                 -1,785 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///40/
   Physical Examination
   General Appearance: No acute distress, Sitting in chair
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic, No(t)
   Diastolic), Irreg Irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : Bibasilar), Poor insp
   effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   604 K/uL
   82 mg/dL
   0.9 mg/dL
   40 mEq/L
   4.0 mEq/L
   13 mg/dL
   96 mEq/L
   139 mEq/L
   26.2 %
   7.1 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
                             [**2140-12-13**]  04:30 AM
                             [**2140-12-14**]  03:49 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   7.8
   7.1
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   24.1
   26.2
   Plt
   367
   324
   338
   371
   [**Telephone/Fax (2) 4150**]60
   604
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   0.8
   0.9
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   97
   82
   Other labs: PT / PTT / INR:23.8/34.1/2.3, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  PICC line in place.  Retrocardiac opacity.  More diffuse
   R-sided opacity.
   Microbiology: BCx ([**12-9**]):  NGTD
   Assessment and Plan
   52yo hypotension in setting of aspiration pneumonia and volume
   overload.
   Hypotension:  Pressor requirement persists.  Remains on midodrine.
     -Continue midodrine
     -Will try to wean pressors and use PRBC transfusion to bolster
   oncotic pressure.
    Aspiration:  Pneumonia vs pneumonitis.  Rapidly improved.  Now on
   nasal cannula.   CXR with persistent B/L opacities
     -Will complete empiric course of abx for 8 days.
   GI:  With nausea/vomiting --> no residuals. No evidnece biliary
   process.
     -Reduce Reglan to [**Hospital1 **] as she is a little more somnolent today.
     -Continue TF and check for residuals
    Renal:  Significant volume overload still
     -Goal net negative 1-2 liters today using lasix drip.
   AF:  Remains on amiodarone, coumadin
   Somnolence:  Wean reglan as above.  D/C paxil.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-13**] 01:49 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2140-12-15 07:40:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   Aspiration pneumonia
   24 Hour Events:
   -- got one unit RBC's
   -- consented [**First Name9 (NamePattern2) 4194**] [**Doctor Last Name 1384**] for blood, not for ICU yet
   -- weaned off levophed in the afternoon
   -- remained on lasix drip
   History obtained from Patient
   Allergies:
   History obtained from PatientOxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2140-12-14**] 08:33 PM
   Piperacillin - [**2140-12-15**] 06:25 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2140-12-14**] 08:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-15**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 87 (80 - 98) bpm
   BP: 88/49(58) {70/34(45) - 100/59(63)} mmHg
   RR: 14 (9 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,647 mL
                                                                    665 mL
   PO:
             TF:
                                                                  1,335 mL
                                                                    406 mL
   IVF:
                                                                  1,802 mL
                                                                    229 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,000 mL
                                                                  1,490 mL
   Urine:
                                                                  5,000 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,353 mL
                                                                   -825 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anteriorly, Diminished: At bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG in place
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   511 K/uL
   9.4 g/dL
   66 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.1 mEq/L
   13 mg/dL
   93 mEq/L
   133 mEq/L
   27.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
                             [**2140-12-13**]  04:30 AM
                             [**2140-12-14**]  03:49 AM
                             [**2140-12-15**]  03:40 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   7.8
   7.1
   6.3
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   24.1
   26.2
   27.8
   Plt
   367
   324
   338
   371
   [**Telephone/Fax (2) 4150**]60
   604
   511
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   97
   82
   66
   Other labs: PT / PTT / INR:25.7/36.8/2.5, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR [**12-14**]:
   IMPRESSION: Interval increase in right upper lobe opacification
   consistent
   with worsening aspiration or pneumonia. Persistent mild congestive
   heart
   failure and bilateral lower lobe air space consolidation
   Microbiology: No new data
   Assessment and Plan
   52 yoF with Down's Syndrome & AD, MICU stay earlier in course for
   pressor-dependent hypotension thought to be [**12-26**] volume depletion;
   admitted now with hypotension, MICU course c/b aspiration event.
    # Aspiration PNA
 occurred in setting of extensive vomiting on
   Thursday [**12-8**]. Concern for development of ARDS vs cardiogenic pulmonary
   edema
   -- CXR [**2140-12-14**] without significant improvement overall
   - continue vanco/zosyn for HAP x 10 day course: ([**12-9**] - [**12-18**])
   - blood cx from the aspiration event with NGTD, sputum was not produced
   by patient
   - weaning supplemental O2 , now on NC
   - continue diuresis to minimize pulm edema
   - TFs back on
   - standing reglan [**Hospital1 **] to avoid repeat N/V
   # Hypotension: not septic shock as does not even meet SIRS criteria.
   She did have a UTI but had been fully treated, with a negative
   surveillance urine culture from [**12-5**]. No evidence of
   hypovolemic/hemorrhagic shock.  Unclear how much autonomic instability
   is contributing to (chronic) hypotension. With severe MR on recent
   echo, poor forward flow is a likely contributor to hypoTN.
   -- not hypoperfusing given lactate of 1.1 while MAPs were in high 40
   -- continue midodrine 10mg TID
   -- levophed has been off  nearly 24 hrs
   -- lasix gtt changed to [**Hospital1 **] lasix boluses
   -- [**Hospital1 **] lytes
     # AFIB: on amio, on coumadin
   -- cont amio; metoprolol PRN for RPR
   -- continue coumadin; therapeutic INR now that dose has been increased
   to 1 mg daily but may need to alternate 1mg/0.5mg dose
   -- trend INR
   # DEMENTIA, FTT: Was evaluated by neuro for poss communication
   hydrocephalus or other cause to dementia.  Neuro planning to defer the
   LP.
   -- d/c
d paxil as may be contributing to lethargy
     # ANEMIA: Hct stable, no evidence active bleeding.  Chronic problem,
   likely from malnutrition (vitammin def) and suppressed BM from chronic
   disease.  Folate, B12 not low.
   -- transfused 1 unit [**12-14**] to improve intravascular volume
   # Hyponatremia
 Resolved with diuresis
   -- lasix boluses, goal 1L neg
   #  HYPOTHYROIDISM:
   -- cont levothyroxine 88 mcg QD
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-14**] 01:20 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2140-12-15 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned of pressors yesterday morning and remained off all day.
   Diuresed effectively yesterday.
                   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Oxycodone
   Unknown;
   Ciprofloxacin
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2140-12-15**] 06:25 AM
   Vancomycin - [**2140-12-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   lansoprazole, valproate, levothyroxine, amidarone, midodrine, colace,
   folate, coumadin, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-12-15**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 85 (80 - 98) bpm
   BP: 81/41(51) {70/34(45) - 100/59(63)} mmHg
   RR: 10 (9 - 19) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  3,647 mL
                                                                  1,214 mL
   PO:
             TF:
                                                                  1,335 mL
                                                                    600 mL
   IVF:
                                                                  1,802 mL
                                                                    464 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,000 mL
                                                                  1,730 mL
   Urine:
                                                                  5,000 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,353 mL
                                                                   -516 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar), Poor insp
   effort
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, G
   tube in place
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   511 K/uL
   66 mg/dL
   0.8 mg/dL
   37 mEq/L
   4.1 mEq/L
   13 mg/dL
   93 mEq/L
   133 mEq/L
   27.8 %
   6.3 K/uL
        [image002.jpg]
                             [**2140-12-6**]  03:56 AM
                             [**2140-12-7**]  03:16 AM
                             [**2140-12-8**]  03:44 AM
                             [**2140-12-9**]  02:25 AM
                             [**2140-12-10**]  03:53 AM
                             [**2140-12-11**]  04:53 AM
                             [**2140-12-12**]  04:09 AM
                             [**2140-12-13**]  04:30 AM
                             [**2140-12-14**]  03:49 AM
                             [**2140-12-15**]  03:40 AM
   WBC
   9.8
   7.9
   8.0
   9.1
   8.6
   8.1
   10.9
   7.8
   7.1
   6.3
   Hct
   26.3
   24.6
   25.6
   27.0
   25.3
   24.5
   23.3
   24.1
   26.2
   27.8
   Plt
   367
   324
   338
   371
   [**Telephone/Fax (2) 4150**]60
   604
   511
   Cr
   0.6
   0.7
   0.6
   0.7
   0.9
   0.9
   0.9
   0.8
   0.9
   0.8
   TropT
   0.05
   Glucose
   114
   235
   146
   169
   97
   93
   80
   97
   82
   66
   Other labs: PT / PTT / INR:25.7/36.8/2.5, CK / CKMB /
   Troponin-T:39//0.05, ALT / AST:[**10-23**], Alk Phos / T Bili:81/0.4, Amylase
   / Lipase:26/35, Differential-Neuts:57.0 %, Band:3.0 %, Lymph:25.0 %,
   Mono:9.0 %, Eos:2.0 %, Lactic Acid:1.1 mmol/L, Albumin:1.9 g/dL,
   Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Imaging: No new imaging
   Assessment and Plan
   52yo hypotension in setting of aspiration pneumonia and volume
   overload.
    Hypotension:  Remains off pressors and is tolerating diuresis.
     -Continue midodrine, MAP goal remain >50
   Aspiration:  Pneumonia vs pneumonitis.  Rapidly improved.  Now on nasal
   cannula.   CXR with persistent B/L opacities
     -Will complete empiric course of abx for 8 days.
   GI:  With nausea/vomiting --> no residuals. No evidnece biliary
   process.
     -Continue to monitor for residuals on reduced dose reglan.
    Renal:  Significant volume overload still
     -Goal net negative 1 liter with intermittent IV lasix
    AF:  Remains on amiodarone, coumadin
    Somnolence:  Paxil now d/c'd and reglan dose reduced.
     -Decrease valproate dosing as she appears to be much more somnolent
   after this.
   Rest of plan per Resident Note
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2140-12-14**] 01:20 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2140-12-5**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 30 minutes